US06710039B1
17β-Hydroxy-14α,15α-methylene-androsta-1,4-diene-3-one
17β-Hydroxy-14α,15α-methylene-androst-4-ene-3-one (4 g) in 160 mL of toluene is stirred for 6 days at 85° C. with 3.2 g of 2,3-dichloro-5-6-dicyanobenzoquinone. The precipitate is filtered off, washed with a little toluene and the filtrates and washings are evaporated to dryness. The residue is purified by chromatography, 17β-Hydroxy-14α,15α-methylene-androsta-1,4-diene-3-one being obtained.

reactant | 17β-Hydroxy-14α,15α-methylene-androst-4-ene-3-one | 4 g | O[C@@H]1[C@]2(C)[C@@]3([C@H](C1)C3)[C@@H]3CCC1=CC(CC[C@]1(C)[C@H]3CC2)=O | C20H28O2
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
product | 17β-Hydroxy-14α,15α-methylene-androsta-1,4-diene-3-one | O[C@@H]1[C@]2(C)[C@@]3([C@H](C1)C3)[C@@H]3CCC1=CC(C=C[C@]1(C)[C@H]3CC2)=O | C20H26O2
